US08497263B2
A mixture of 5-(4-bromophenyl)-3-(4-methoxyphenyl)-4-phenyl-4,5-dihydro-1H-pyrrolo[3,4-c]pyrazol-6-one (0.138 g, 0.3 mmol), oxadiazol-2-yl tributyltin (0.134 g, 0.37 mmol), tris(2-furyl)phosphine (0.014 g, 0.06 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.027 g, 0.03 mmol) and dioxane (1.5 mL) was stirred at 130° C. under microwave radiation for 75 min. The reaction mixture was purified by silica gel column chromatography (ethyl acetate/n-hexane). The fraction was concentrated under reduced pressure and the precipitate was collected by filtration to give 3-(4-methoxyphenyl)-5-(4-oxazol-2-ylphenyl)-4-phenyl-4,5-dihydro-1H-pyrrolo[3,4-c]pyrazol-6-one (12 mg, 10%) as colorless crystals.

reactant | 5-(4-bromophenyl)-3-(4-methoxyphenyl)-4-phenyl-4,5-dihydro-1H-pyrrolo[3,4-c]pyrazol-6-one | 0.3 mmol, 0.138 g | BrC1=CC=C(C=C1)N1C(C=2NN=C(C2C1C1=CC=CC=C1)C1=CC=C(C=C1)OC)=O | C24H18BrN3O2
reactant | oxadiazol-2-yl tributyltin | 0.37 mmol, 0.134 g | O1N(NC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | tris(2-furyl)phosphine | 0.06 mmol, 0.014 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.03 mmol, 0.027 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 3-(4-methoxyphenyl)-5-(4-oxazol-2-ylphenyl)-4-phenyl-4,5-dihydro-1H-pyrrolo[3,4-c]pyrazol-6-one | 12 mg, 10% | COC1=CC=C(C=C1)C=1C2=C(NN1)C(N(C2C2=CC=CC=C2)C2=CC=C(C=C2)C=2OC=CN2)=O | C27H20N4O3
